US06573263B2
Analogously to Example 30A, 8.00 g (34.44 mmol) of methyl (4E)-2-acetyl-5-phenyl-4-pentenoate are reacted with 0.72 g (18.9 mmol) of sodium borohydride to give methyl (4E)-2-(1-hydroxyethyl)-5-phenyl-4-pentenoate.

reactant | methyl (4E)-2-acetyl-5-phenyl-4-pentenoate | 34.44 mmol, 8.00 g | C(C)(=O)C(C(=O)OC)C\C=C\C1=CC=CC=C1 | C14H16O3
reactant | sodium borohydride | 18.9 mmol, 0.72 g | [BH4-].[Na+]
product | methyl (4E)-2-(1-hydroxyethyl)-5-phenyl-4-pentenoate | OC(C)C(C(=O)OC)C\C=C\C1=CC=CC=C1 | C14H18O3
